* test6 high-gain OTA with differential capacitive PGA feedback, gain about 32
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core_highgain.spice
.include eeg_cmfb_amp.spice
.include eeg_fd_ota_twostage_highgain.spice
.param VDD=1.8 VCM=0.9
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VBN_SRC VBN 0 0.65
VSIGP SIGP 0 DC {VCM} AC 0.5 0
VSIGN SIGN 0 DC {VCM} AC 0.5 180

* Cin/Cf = 32. Cross-coupled feedback gives negative differential feedback.
CINP SIGP INP 32p
CINN SIGN INN 32p
CFP OUTN INP 1p
CFN OUTP INN 1p
RBIASP INP VCM_REF 1T
RBIASN INN VCM_REF 1T

XAFE INP INN VCM_REF VBN OUTP OUTN VDD18 0 eeg_fd_ota_twostage_highgain
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.control
set noaskquit
op
let idd=-i(VDD_SRC)
let vcmout=(v(OUTP)+v(OUTN))/2
wrdata ../results/pga32_highgain_tt_op.csv v(OUTP) v(OUTN) vcmout idd
ac dec 100 0.01 10Meg
let voutdiff=v(OUTP)-v(OUTN)
let vindiff=v(SIGP)-v(SIGN)
let clgain=voutdiff/vindiff
let clgain_db=db(clgain)
let clphase=180/pi*ph(clgain)
meas ac gain_10hz find mag(clgain) at=10
meas ac gain_100hz find mag(clgain) at=100
meas ac gain_10hz_db find clgain_db at=10
meas ac gain_100hz_db find clgain_db at=100
wrdata ../results/pga32_highgain_tt_ac.csv frequency clgain_db clphase
quit
.endc
.end
